US03984559
A mixture of 45.3 g. (0.31 mol.) of p-chlorophenylacetonitrile and 107 g. (0.72 mol., 99 ml.) of diethyl oxalate in an alcoholic sodium ethoxide solution [prepared by dissolving 7.13 g. (0.31 g.-atom) of sodium in 120 ml. of absolute ethanol] was refluxed with stirring for 2 hours. The cooled reaction mixture was diluted with 700 ml. of water, acidified with acetic and cooled to ice bath temperature. The resulting solid was collected and recrystallized from aqueous methanol to give ethyl 3-(p-chlorophenyl)-3-cyanopyruvate, m.p. 134°-135°.

reactant | p-chlorophenylacetonitrile | 0.31 mol | ClC1=CC=C(C=C1)CC#N | C8H6ClN
reactant | diethyl oxalate | 0.72 mol, 99 ml | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | sodium ethoxide | 120 ml, 7.13 g | [O-]CC.[Na+]
reactant | sodium | 0.31 g | [Na] | Na
reactant | acetic | CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C | C20H18O4
solvent | water | O | H2O
product | ethyl 3-(p-chlorophenyl)-3-cyanopyruvate | ClC1=CC=C(C=C1)C(C(C(=O)OCC)=O)C#N | C12H10ClNO3
